US07847101B2
Synthesis of 4-benzothiazol-2-yl-5-furan-2-yl-2H-pyrazol-3-ylamine (549-92)
The 2-benzothiazol-2-yl-3-chloro-3-furan-2-ylacrylonitrile (480 mg, 1.7 mmol) prepared above and hydrazine hydrate (100 mg, 2 mmol) were refluxed in methanol (15 mL) for 3 hrs. The solvent was then evaporated and the residue was purified by flash column chromatography eluting with CH2Cl2:MeOH=9:1 to afford 130 mg of material. This was further purified by preparative TLC eluting with CH2Cl2:MeOH=9:1 to yield 23 mg (5%) of the title compound. MS (m/z, ES+): 283.0 (M+1, 100%).

reactant | 2-benzothiazol-2-yl-3-chloro-3-furan-2-ylacrylonitrile | 1.7 mmol, 480 mg | S1C(=NC2=C1C=CC=C2)C(C#N)=C(C=2OC=CC2)Cl | C14H7ClN2OS
reactant | hydrazine hydrate | 2 mmol, 100 mg | O.NN
solvent | methanol | 15 mL | CO | CH4O
product | 4-benzothiazol-2-yl-5-furan-2-yl-2H-pyrazol-3-ylamine | 130 mg | S1C(=NC2=C1C=CC=C2)C2=C(NN=C2C=2OC=CC2)N | C14H10N4OS
